US06242443B1
5-Chloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-4-methylbenzenesulfonamide and isopropyl isothiocyanate, and following a procedure analogous to the one described in Example 4a, N-(2-amino-3-chlorobenzenesulfonyl)-N′-isopropylthiourea was prepared; m.p. 124-125° C. Subsequent ring closure with phosgene by a procedure analogous to the one described in Example 4b gave the title compound; m.p. 204-206° C.

reactant | 2-amino-4-methylbenzenesulfonamide | NC1=C(C=CC(=C1)C)S(=O)(=O)N | C7H10N2O2S
reactant | isopropyl isothiocyanate | C(C)(C)N=C=S | C4H7NS
reactant | N-(2-amino-3-chlorobenzenesulfonyl)-N′-isopropylthiourea | NC1=C(C=CC=C1Cl)S(=O)(=O)NC(=S)NC(C)C | C10H14ClN3O2S2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 5-Chloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC=CC2=C1NC(=NS2(=O)=O)NC(C)C | C10H12ClN3O2S
